US04109088
A mixture of 3.05 g. of oily 2-(1-hydroxy-1-methyl-5-indanyloxymethyl)-4-isopropylmorpholine, 100 ml. of xylene, and 20 mg. of p-toluenesulfonic acid was refluxed with stirring for 4 hours and then the solvent was distilled off. Then, the residue formed was adsorbed on a silica gel column prepared from 100 ml. of silica gel in chloroform and eluted with ethyl acetate. After removing the first 10 ml. of the ethyl acetate eluate emerging from the column, 200 ml. of the subsequent ethyl acetate eluate was collected and concentrated under reduced pressure to provide 2.1 g. (yield 73.3%) of 4-isopropyl-2-(3-methyl-6-indenyloxymethyl)morpholine. The citrate of the product had a melting point of 159°-161° C.

reactant | 2-(1-hydroxy-1-methyl-5-indanyloxymethyl)-4-isopropylmorpholine | OC(C)(C1CN(CCO1)C(C)C)OC=1C=C2CCCC2=CC1 | C18H27NO3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-isopropyl-2-(3-methyl-6-indenyloxymethyl)morpholine | yield 73.3% | C(C)(C)N1CC(OCC1)COC1=CC=C2C(=CCC2=C1)C | C18H25NO2
